US05773442
660 mg of (+)-cis-diethyl 4-[4-(4-cyanophenyl)-1-piperazinyl]-1,3-piperidinediacetate-(+)-dibenzoyl-D-tartrate was dissolved in 20 ml of ethanol, into which hydrogen chloride was bubbled at from -10° C. to -20° C. until saturation. This was heated up to room temperature and stirred overnight, and thereafter the solvent was removed by distillation. The residue thus obtained was dissolved in 20 ml of ethanol, and 1.0 g of ammonium carbonate was added thereto and stirred at room temperature overnight. The solvent was removed from the reaction mixture by distillation, and the resulting residue was purified by silica gel column chromatography (using an eluent of chloroform/methanol=10/1) to obtain 300 mg of (+)-cis-diethyl 4-[4-(4-amidinophenyl)-1-piperazinyl]-1,3-piperidinediacetate hydrochloride.

reactant | (+)-cis-diethyl 4-[4-(4-cyanophenyl)-1-piperazinyl]-1,3-piperidinediacetate (+)-dibenzoyl-D-tartrate | 660 mg | C(#N)C1=CC=C(C=C1)N1CCN(CC1)[C@@H]1[C@@H](CN(CC1)CC(=O)OCC)CC(=O)OCC.C(C1=CC=CC=C1)(=O)[C@@]([C@@](C(=O)[O-])(O)C(C1=CC=CC=C1)=O)(O)C(=O)[O-]
reactant | ammonium carbonate | 1.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (+)-cis-diethyl 4-[4-(4-amidinophenyl)-1-piperazinyl]-1,3-piperidinediacetate hydrochloride | 300 mg | Cl.C(N)(=N)C1=CC=C(C=C1)N1CCN(CC1)[C@@H]1[C@@H](CN(CC1)CC(=O)OCC)CC(=O)OCC | InChI=1S/C24H37N5O4.ClH/c1-3-32-22(30)15-19-16-27(17-23(31)33-4-2)10-9-21(19)29-13-11-28(12-14-29)20-7-5-18(6-8-20)24(25)26;/h5-8,19,21H,3-4,9-17H2,1-2H3,(H3,25,26);1H/t19-,21+;/m1./s1
